US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methylpyrazin-2-yl)benzamide
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.86 g, 6.56 mmol) was added to a solution of 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (3 g, 5.96 mmol) in DCM (100 mL) and stirred at RT for 11 hour. 2-Amino-5-methylpyrazine (1.3 g, 11.9 mmol) and pyridine (0.94 mL, 11.9 mmol) were added and the reaction stirred for a further 30 mins. The solvent was removed in vacuo. Water (100 mL) was added and the mixture extracted with ethyl acetate (3×50 mL). The extracts were combined and washed with water (1100 mL), brine (100 mL), dried (MgSO4), filtered, and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound (3.6 g).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 6.56 mmol, 0.86 g | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 5.96 mmol, 3 g | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)F | C26H34FNO6Si
reactant | 2-Amino-5-methylpyrazine | 11.9 mmol, 1.3 g | NC1=NC=C(N=C1)C | C5H7N3
reactant | pyridine | 11.9 mmol, 0.94 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methylpyrazin-2-yl)benzamide | 3.6 g | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC=C(N=C3)C)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)F | C31H39FN4O5Si
